US09406894B2
Step 2: Synthesis of 5-Methyl-1-(2-methylphenyl)-3-phenyl-1H-1,2,4-triazole (Abbreviation: HMp3tz1-mp)
Next, 9.1 g of o-tolyl hydrazine hydrochloride and 100 mL of carbon tetrachloride were put into a 300-mL three-neck flask, 12 mL of triethylamine (Et3N) was added dropwise to the mixture little by little, and the mixture was stirred at room temperature for 1 hour. After a predetermined time elapsed, 10 g of N-(1-ethoxybenzylidene)acetamide was added, and the mixture was stirred at room temperature for 19 hours. Then, water was added to this reacted solution and the aqueous layer was subjected to extraction with chloroform. The obtained solution of the extract and the organic layer were combined and washed with saturated saline, and anhydrous magnesium sulfate was added to the organic layer for drying. The obtained mixture was gravity-filtered, and the filtrate was concentrated to give an oily substance. The obtained oily substance was purified by silica gel column chromatography. As the developing solvent, dichloromethane was used. The obtained fraction was concentrated, so that 5-methyl-1-(2-methylphenyl)-3-phenyl-1H-1,2,4-triazole (abbreviation: HMp3tz1-mp) was obtained (a red oily substance, 64% yield). The synthesis scheme of Step 2 is shown in (B-2) below.

reactant | o-tolyl hydrazine hydrochloride | 9.1 g | Cl.C1(=C(C=CC=C1)NN)C
reactant | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triethylamine | 12 mL | C(C)N(CC)CC | C6H15N
reactant | N-(1-ethoxybenzylidene)acetamide | 10 g | C(C)OC1(C=NC(C)=O)CC=CC=C1 | C11H15NO2
solvent | water | O | H2O
product | 5-Methyl-1-(2-methylphenyl)-3-phenyl-1H-1,2,4-triazole | 64% yield | CC1=NC(=NN1C1=C(C=CC=C1)C)C1=CC=CC=C1 | C16H15N3
